US04612388
In a 100-ml tightly-sealed glass vessel were charged 9.36 g of 2-methyl-4-benzylidene-5-oxazolone and 30 ml of water. Thereafter, 5.3 g of 45% sodium hydroxide solution was added thereto and the resulting mixture was stirred at 40°-45° C. for 2 hours. The 2-methyl-4-benzylidene-5-oxazolone was hydrolyzed to form an aqueous homogeneous solution of sodium α-acetylaminocinnamate. Then, concentrated hydrochloric acid was added to the solution to adjust its pH at 7.2, and subsequently 0.2 g of 5%-palladium-carbon was added thereto. The gas phase in the vessel was purged with nitrogen and then with hydrogen and thereafter the content in the vessel was subjected to catalytic reduction at 40°-45° C. under atmospheric pressure. The reaction time was approximately 90 minutes until hydrogen absorption was completed. During this time period, it was observed that one mole of hydrogen was absorbed to one mole of 2-methyl-4-benzylidene-5-oxazolone.

reactant | 2-methyl-4-benzylidene-5-oxazolone | 9.36 g | CC=1OC(C(N1)=CC1=CC=CC=C1)=O | C11H9NO2
reactant | sodium hydroxide | 5.3 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | sodium α-acetylaminocinnamate | C(C)(=O)NC(C(=O)[O-])=CC1=CC=CC=C1.[Na+] | InChI=1S/C11H11NO3.Na/c1-8(13)12-10(11(14)15)7-9-5-3-2-4-6-9;/h2-7H,1H3,(H,12,13)(H,14,15);/q;+1/p-1
